US06590127B1
Preparation of Isoacoramone (1-(2,4,5-trimethoxyphenyl)-1-propanone):
A solution of DDQ (3.06-4.09 g) in dioxane (40 mL) was added dropwise over a period of 10 min to a ice cold and well stirred solution of 2,4,5-trimethoxyphenylpropane (1.89 g, 0.009 mol) in wet dioxane or ethanol (55 mL) and the resulting mixture was stirred at room temperature for over night. The precipitate was filtered and further washed twice with dioxane. The combined dioxane layer was evaporated and mixture was poured into water and extracted with dichloromethane (3×70 mL). The combined organic layer were washed with brine (3×15 mL) and dried over sodium sulphate. The residue obtained on evaporation of the solvents was chromatographed on silica gel column using hexane-ethyl acetate mixture with increasing proportion of ethyl acetate upto 40% to afford viscous liquid which was crystallized from ethylacetate/hexane to afford 1.19 g (59%) of white crystals of isoacoramone. The spectral data was found similar as mentioned above in Example III.

reactant | DDQ | 3.06-4.09 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | 2,4,5-trimethoxyphenylpropane | 0.009 mol, 1.89 g | COC1=C(C=C(C(=C1)OC)OC)CCC | C12H18O3
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | ethanol | 55 mL | C(C)O | C2H6O
product | Isoacoramone | 1.19 g, 59% | CCC(=O)C1=CC(=C(C=C1OC)OC)OC | C12H16O4
